US05238962
24.4 g (0.02 mol) of benzoic acid are reacted with triethylamine and ethyl chloroformate in a manner analogous to that described in Example 5 and added dropwise at 10° to a solution of 53.5 ml (0.8 mol) of ethylenediamine in 750 ml of chloroform. After removing the difficulty soluble neutral constituents by filtration, the chloroform solution is concentrated and excess ethylenediamine is removed in a high vacuum. The oily residue (36.3 g) is taken up in 200 ml of 2N sodium hydroxide solution, saturated with solid sodium chloride and extracted several times with ethyl acetate. The ethyl acetate extracts are dried over magnesium sulfate and concentrated. The product is converted into the hydrochloride which is purified by recrystallization from ethanol, there being obtained 5.2 g of N-(2- aminoethyl)benzamide hydrochloride [J. Amer. Chem. Soc. 61, 822 (1939)], m.p. 163°-165°.

reactant | benzoic acid | 0.02 mol, 24.4 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | ethylenediamine | 0.8 mol, 53.5 ml | C(CN)N | C2H8N2
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2- aminoethyl)benzamide hydrochloride | 5.2 g | Cl.NCCNC(C1=CC=CC=C1)=O | InChI=1S/C9H12N2O.ClH/c10-6-7-11-9(12)8-4-2-1-3-5-8;/h1-5H,6-7,10H2,(H,11,12);1H
